US09416135B2
To a solution of 2,4-dichloro-5-(trifluoromethyl)pyrimidine (20.0 mg, 0.092 mmol) in DCE (1 mL) and t-BuOH (1 mL) was added ZnCl2 (1M in diethyl ether, 0.2 mL, 0.2 mmol) at 0° C. The mixture was stirred at 0° C. for 1 h. Then a solution of (R)-methyl 1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine-8-carboxylate (31 mg, 0.09 mmol) in DCE (1 mL) and t-BuOH (1 mL) was added to the reaction mixture via syringe over 1 min at 0° C. After addition, the resulting mixture was stirred at rt overnight. The reaction mixture was concentrated under vacuum. Water (5 mL) and EtOAc (5 mL) were added to the mixture. The aqueous phase was extracted with EtOAc (3×10 mL). The combined organic layers were washed with brine, dried over anhydrous Na2SO4, filtered and concentrated under vacuum. The residue was purified by preparative TLC to afford (R)-methyl 2-(4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)-1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine-8-carboxylate (20 mg, 42.6% yield) as a white solid.

reactant | 2,4-dichloro-5-(trifluoromethyl)pyrimidine | 0.092 mmol, 20.0 mg | ClC1=NC=C(C(=N1)Cl)C(F)(F)F | C5HCl2F3N2
reactant | (R)-methyl 1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine-8-carboxylate | 0.09 mmol, 31 mg | C(C)(C)[C@@H]1C=2N(CCN1)C1=C(N2)C=C(C(=C1)S(=O)(=O)C)C(=O)OC | C16H21N3O4S
solvent | DCE | 1 mL | ClCCCl | C2H4Cl2
solvent | t-BuOH | 1 mL | CC(C)(C)O | C4H10O
solvent | DCE | 1 mL | ClCCCl | C2H4Cl2
solvent | t-BuOH | 1 mL | CC(C)(C)O | C4H10O
catalyst | ZnCl2 | 0.2 mmol, 1M, 0.2 mL | [Cl-].[Cl-].[Zn+2]
product | (R)-methyl 2-(4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)-1-isopropyl-7-(methylsulfonyl)-1,2,3,4-tetrahydrobenzo[4,5]imidazo[1,2-a]pyrazine-8-carboxylate | 20 mg, 42.6% yield | ClC1=NC(=NC=C1C(F)(F)F)N1[C@@H](C=2N(CC1)C1=C(N2)C=C(C(=C1)S(=O)(=O)C)C(=O)OC)C(C)C | C21H21ClF3N5O4S
